US07863281B2
(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)-acetaldehyde-hydrochloride
Prepared by treating (1S,4S)-5-(2,2-dimethoxy-ethyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane with conc. hydrochloric acid in water at 80° C. The solution obtained is further reacted directly in Example 2 and 2(5).

reactant | (1S,4S)-5-(2,2-dimethoxy-ethyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane | COC(CN1[C@@H]2CO[C@H](C1)C2)OC | C9H17NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | (1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)-acetaldehyde-hydrochloride | Cl.[C@@H]12OC[C@@H](N(C1)CC=O)C2 | InChI=1S/C7H11NO2.ClH/c9-2-1-8-4-7-3-6(8)5-10-7;/h2,6-7H,1,3-5H2;1H/t6-,7-;/m0./s1
